US07632829B2
1-[(E)-3-(4-Chloro-3-fluoro-phenyl)-acryloyl]-[1,4]diazepan-5-one
In analogy to the procedure described for intermediate 1A, (E)-4-chloro-3-fluorocinnamic acid and 2,3,6,7-tetrahydro-(1H)-1,4-diazepin-5(4H)-one gave the title compound as white solid. MS: 297.3 (MH+).

reactant | (E)-4-chloro-3-fluorocinnamic acid | ClC1=C(C=C(/C=C/C(=O)O)C=C1)F | C9H6ClFO2
reactant | 2,3,6,7-tetrahydro-(1H)-1,4-diazepin-5(4H)-one | N1CCNC(CC1)=O | C5H10N2O
product | 1-[(E)-3-(4-Chloro-3-fluoro-phenyl)-acryloyl]-[1,4]diazepan-5-one | ClC1=C(C=C(C=C1)/C=C/C(=O)N1CCNC(CC1)=O)F | C14H14ClFN2O2
